plaintext
* SPICE netlist for the circuit
V1 VDD 0 DC 5V
? Missing component
* Resistor
RD Vout 2 10k
R1 3 0 10k
* Transistors
M1 Vout Vin VDD VDD PMOS L=1u W=5u
M2 2 3 0 0 NMOS L=1u W=5u
* Analysis commands
.OP
.END
